US08183280B2
D. (2S)-1-(2′-(N-tert-Butyloxycarbonyl-N-(2-methylpropyl)amino)acetyl)pyrrolidine-2-carboxamide
Nα-(tert-Butyloxycarbonyl)-Nα-(2-methylpropyl) glycine (360 mg, 1.56 mmol) was dissolved in CH2Cl2/DMF (9:1, 20 ml). The solution was cooled to 0° C., L-prolinamide hydrochloride (282 mg, 1.87 mmol), 1-hydroxybenzotriazole hydrate (295 mg, 2.18 mmol) and water soluble carbodiimide (358 mg, 1.87 mmol) were added and after 15 min the pH adjusted to pH9 with triethylamine. After 18 h at 0° C. to room temperature the solvent was removed in vacuo and the residue was taken up in ethyl acetate (100 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 4% methanol, 94% chloroform, 2% triethylamine) to give a colourless oil identified as the title compound (330 mg, 1.01 mmol, 65%).

reactant | Nα-(tert-Butyloxycarbonyl)-Nα-(2-methylpropyl) glycine | 1.56 mmol, 360 mg | C(C)(C)(C)OC(=O)N(CC(=O)O)CC(C)C | C11H21NO4
reactant | L-prolinamide hydrochloride | 1.87 mmol, 282 mg | Cl.N1[C@H](C(=O)N)CCC1
reactant | 1-hydroxybenzotriazole hydrate | 2.18 mmol, 295 mg | O.ON1N=NC2=C1C=CC=C2
reactant | water soluble carbodiimide | 1.87 mmol, 358 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 DMF | 20 ml | C(Cl)Cl.CN(C)C=O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (2S)-1-(2′-(N-tert-Butyloxycarbonyl-N-(2-methylpropyl)amino)acetyl)pyrrolidine-2-carboxamide | 1.01 mmol, 330 mg, 65% | C(C)(C)(C)OC(=O)N(CC(C)C)CC(=O)N1[C@@H](CCC1)C(=O)N | C16H29N3O4
